US08138181B2
Step 3I: Preparation of 5-(8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole:
To (trans)-tert-butyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-yloxy)piperidine-1-carboxylate (4 mg, 0.007 mmol) in DCM (1 mL) was added TFA (1 mL), followed by a 30 minute stir. The crude reaction was concentrated and purified by flash column chromatography (DCM/MeOH/NH4OH 10:1:0.1) affording the desired product (60%). MS APCI (+) m/z 504.2 (M+1) detected.

reactant | (trans)-tert-butyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-4-(oxazol-5-yl)quinolin-8-yloxy)piperidine-1-carboxylate | 0.007 mmol, 4 mg | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C2=CN=CO2)C(=O)OC(C)(C)C | C32H34FN5O6
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-4-yl)oxazole | 60% | F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C(=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C2=CN=CO2 | C27H26FN5O4
